US05990133
1-[4-Methoxy-3-(pyrid-3-yl)phenylcarbamoyl]-5-methoxy-6-trifluoromethylindoline (E31)
The title compound (0.21 g, 32%) was prepared from phenyl N-[4-methoxy-3-(pyrid-3-yl)phenyl]carbamate (D23) (0.48 g, 0.0015 mole) and 5-methoxy-6-trifluoromethylindoline (D11) using the method of Example 28.

reactant | phenyl N-[4-methoxy-3-(pyrid-3-yl)phenyl]carbamate | 0.0015 mole, 0.48 g | COC1=C(C=C(C=C1)NC(OC1=CC=CC=C1)=O)C=1C=NC=CC1 | C19H16N2O3
reactant | 5-methoxy-6-trifluoromethylindoline | COC=1C=C2CCNC2=CC1C(F)(F)F | C10H10F3NO
product | 1-[4-Methoxy-3-(pyrid-3-yl)phenylcarbamoyl]-5-methoxy-6-trifluoromethylindoline | 0.21 g, 32% | COC1=C(C=C(C=C1)NC(=O)N1CCC2=CC(=C(C=C12)C(F)(F)F)OC)C=1C=NC=CC1 | C23H20F3N3O3
